US06610701B2
Step C. 2-Azidomethylphenylacetic acid t-butyl ester
To a solution of crude 2-bromomethylphenylacetic acid t-butyl ester (0.349 mol) in 600 mL DMF was added 34.1 g (0.524 mol) sodium azide and the mixture stirred at 65° C. for 3 h. After cooling to ambient temperature, the mixture was diluted with 1.2 L ethyl acetate. The organic layer was washed with water (3×800 mL), dried over sodium sulfate, filtered and concentrated in vacuo to give the titled compound as a yellow oil. This material was used without further purification.

reactant | 2-bromomethylphenylacetic acid t-butyl ester | 0.349 mol | C(C)(C)(C)OC(CC1=C(C=CC=C1)CBr)=O | C13H17BrO2
reactant | sodium azide | 0.524 mol, 34.1 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 1.2 L | C(C)(=O)OCC | C4H8O2
product | 2-Azidomethylphenylacetic acid t-butyl ester | C(C)(C)(C)OC(CC1=C(C=CC=C1)CN=[N+]=[N-])=O | C13H17N3O2
